US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-[3,4-(methylenedioxy)phenethyl]thiophene-3-sulfonamide was prepared in the same manner as described in Example 2. By reacting 3-chlorosulfonyl-2-[3,4-(methylenedioxy)phenethyl]thiophene with 5-amino-4-bromo-3-methylisoxazole and purifying the crude product by HPLC, N-(4-bromo-3-methyl-5-isoxazolyl)-2-[3,4-(methylenedioxy)phenethyl]thiophene-3-sulfonamide was obtained in a 30% yield, m.p. 180° (dec.).

reactant | 3-chlorosulfonyl-2-[3,4-(methylenedioxy)phenethyl]thiophene | ClS(=O)(=O)C1=C(SC=C1)CCC1=CC2=C(C=C1)OCO2 | C13H11ClO4S2
reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-[3,4-(methylenedioxy)phenethyl]thiophene-3-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C1=C(SC=C1)CCC1=CC2=C(C=C1)OCO2)C | C17H15BrN2O5S2
